US06720320B2
3-(4-hydroxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 3-(4-methoxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole (1.1 g) and boron tribromide (4.2 ml), the title compound (0.75 g) was obtained as yellow crystals.

reactant | 3-(4-methoxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole | 1.1 g | COC1=CC=CC=2OC(=CC21)C2=NOC(=N2)C | C12H10N2O3
reactant | boron tribromide | 4.2 ml | B(Br)(Br)Br | BBr3
product | 3-(4-hydroxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole | 0.75 g | OC1=CC=CC=2OC(=CC21)C2=NOC(=N2)C | C11H8N2O3
